US07323475B2
e. 7-(4-Fluoro-phenoxy)-4-hydroxy-1-methyl-isoquinoline-3-carboxylic acid butyl ester
A mixture of 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (434 mg, 1 mmol), Pd(PPh3)4 (116 mg, 0.1 mmol), trimethylboroxine (140 μl, 1 mmol), K2CO3 (414 mg, 3 mmol), and 1,4-dioxane (8 ml) was refluxed with stirring for 2 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (10 ml). The mixture was acidified by the addition of aqueous 6N HCl and then extracted with EtOAc (40 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. Purification of the residue by flash column chromatography on silica gel using hexanes:EtOAc=94:6 as the eluent gave the title compound as white solid (229 mg); MS-(+)-ion M+1=370.1.

reactant | 1-Bromo-7-(4-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 1 mmol, 434 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)Br | C20H17BrFNO4
reactant | trimethylboroxine | 1 mmol, 140 μl | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 3 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 7-(4-Fluoro-phenoxy)-4-hydroxy-1-methyl-isoquinoline-3-carboxylic acid butyl ester | 229 mg | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC1=CC=C(C=C1)F)C | C21H20FNO4
